
*Independent Voltage source
Vs 1 GND 0 ac 1.0 0

*Capacitor -> Voltage source (Vx = V(6)-V(8))
Vx 6 8 8.38099

*Resistors
R1 1 2 1.0476827939k
R2 3 2 2.06734674703k
R3 2 5 3.11772752237k
R4 5 GND 4.18589931649k
R5 5 6 3.07515052435k

*Auxiliar voltage source (VAux) for inputing current for current-dependent voltage source
R6 GND 6.5 2.05395043467k
VAux 6.5 7 0
R7 7 8 1.00552689939k

Hd 5 8 VAux 8.2448059697k
Gb 6 3 (2,5) 7.20043221704m

.control

op

echo  "op_TAB"
print V(1)
print V(2)
print V(3)
print V(5)
print V(6)
print V(7)
print V(7.5)
print V(8)
print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]
print @Hd[i]
print @Vx[i]
print (V(6)-V(8))/(@Vx[i])
echo  "op_END"

quit

.endc

.end