
*Independent Voltage source
Vs 1 GND 0 ac 1.0 0 sin(0 1.0 1k)

*Capacitor
C1 6 8 1.00982059009u ic=8.38099V

*Resistors
R1 1 2 1.0476827939k
R2 3 2 2.06734674703k
R3 2 5 3.11772752237k
R4 5 GND 4.18589931649k
R5 5 6 3.07515052435k

*Auxiliar voltage source (VAux) for inputing current for current-dependent voltage source
R6 GND 6.5 2.05395043467k
VAux 6.5 7 0
R7 7 8 1.00552689939k

Hd 5 8 VAux 8.2448059697k
Gb 6 3 (2,5) 7.20043221704m

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=rgb:0/8/7

tran 50u 20m uic

hardcopy t2_4.ps V(6) V(1)

quit

.endc

.end